US07192943B2
To a solution of tert-butyl 2-aminoethylcarbamate (4.81 g) in dehydrated chloroform (10 ml) were added sodium carbonate (1.06 g) and N-(2-bromoethyl)tritylamine (3.66 g), and the mixture was stirred under reflux for 3 hours. To the reaction mixture were added diethyl ether and hexane, and the solution was washed with water. The mixture was extracted with 5% aqueous citric acid solution, and the aqueous layer was washed with diethyl ether. The aqueous layer was then made alkaline with sodium hydrogencarbonate followed by extraction with diethyl ether. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give tert-butyl 2-{[2-(tritylamino)ethyl]amino}ethylcarbamate (1.86 g) as a viscous oil.

reactant | tert-butyl 2-aminoethylcarbamate | 4.81 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | sodium carbonate | 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-bromoethyl)tritylamine | 3.66 g | BrCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20BrN
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
product | tert-butyl 2-{[2-(tritylamino)ethyl]amino}ethylcarbamate | 1.86 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCNCCNC(OC(C)(C)C)=O | C28H35N3O2
